US05492690
(c) 1-(2',3',4',5'-Tetramethylphenyl)-3-(ethoxy)-propane-1,3-dione
A 5 L, 3-necked flask is equipped with an overhead stirrer, addition funnel, thermowell and argon inlet. The flask is purged with argon then charged with ethyl hydrogen malonate (139.8 g, 1.06 mol) and tetrahydrofuran (2.3 L). The flask is cooled to -65° C. in a dry-ice/acetone bath. The n-butyllithium (892 mL, 2.23 mol) is transferred to the addition funnel then added dropwise to the stirred solution over a 2 hour period. After complete addition the reaction is warmed to -5° C. and stirred for 15 minutes. The resulting thick slurry is cooled to -65° C. The addition funnel is rinsed with tetrahydrofuran (20 mL) and the 2,3,4,5-tetramethylbenzoyl chloride (152.6 g, 0.776 mol) in tetrahydrofuran (250 mL) is transferred to the addition funnel under argon then added dropwise to the reaction over a 1.5 hour period. After complete addition the mixture is stirred at -65° C. for 1.5 hours. The reaction is allowed to warm to -20° C. then quenched over a water-ice mixture (3 L total volume). The solution is acidified to pH 2 by the slow addition of concentrated HCl. The product is extracted with ether (3×1 L), washed with saturated NaCO3 (2×1.5 L) and brine (1×1.5 L), dried over MgSO4, then concentrated in vacuo to a tan oil. An additional reaction is carried to produce a total of 185.1 g of crude product. Attempts to purify this material by vacuum distillation result in the apparent partial decomposition of the product. The remaining material is divided into two portions with each being chromatographed over 2 kg of silica eluted with methylene chloride. The TLC pure fractions are combined, concentrated in vacuo at 40° C. to constant weight, 108.5 g (42% yield).

reactant | ethyl hydrogen malonate | 1.06 mol, 139.8 g | C(CC(=O)O)(=O)OCC | C5H8O4
reactant | n-butyllithium | 2.23 mol, 892 mL | C(CCC)[Li]
reactant | 2,3,4,5-tetramethylbenzoyl chloride | 0.776 mol, 152.6 g | CC1=C(C(=O)Cl)C=C(C(=C1C)C)C | C11H13ClO
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.3 L | O1CCCC1 | C4H8O
product | 1-(2',3',4',5'-Tetramethylphenyl)-3-(ethoxy)-propane-1,3-dione | 185.1 g, 42% yield | CC1=C(C=C(C(=C1C)C)C)C(CC(=O)OCC)=O | C15H20O3
